US07754742B2
4-Azidomethyl-2-chloro-benzoic acid methyl ester
Add sodium azide (2.44 g, 37.49 mmol) to crude 4-bromomethyl-2-chloro-benzoic acid methyl ester (7.6 g, 28.84 mmol) in anhydrous dimethylformamide (100 mL) at room temperature under argon gas. Stir the reaction mixture at 50° C. overnight. Quench the reaction mixture with water and extract with ether (3×). Combine the organic layers, wash with brine, dry over sodium sulfate, and concentrate to provide the crude product (5.8 g, 25.7 mmol).

reactant | sodium azide | 37.49 mmol, 2.44 g | [N-]=[N+]=[N-].[Na+]
reactant | 4-bromomethyl-2-chloro-benzoic acid methyl ester | 28.84 mmol, 7.6 g | COC(C1=C(C=C(C=C1)CBr)Cl)=O | C9H8BrClO2
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 4-Azidomethyl-2-chloro-benzoic acid methyl ester | 25.7 mmol, 5.8 g | COC(C1=C(C=C(C=C1)CN=[N+]=[N-])Cl)=O | C9H8ClN3O2
